US08378095B2
To a solution of tert-butyl 4-(4-(2-(o-toluidino)-4-carbamoyloxazol-5-yl)phenyl)piperazine-1-carboxylate (0.012 g, 0.025 mmol) in DCM (0.5 ml) was added 0.5M HCl in dioxane (0.25 ml, 0.125 mmol) and the resulting solution stirred at room temperature for 2 hours. The mixture was then diluted with MeOH and purified by SPE using a MP-TsOH (500 mg) cartridge to afford 2-(o-toluidino)-5-(4-(piperazin-1-yl)phenyl)oxazole-4-carboxamide (0.0087 g, 0.023 mmol, 92%). 1H NMR (DMSO) δ 2.30 (3H, s), 2.84 (4H, m), 3.15 (4H, m), 6.97-7.01 (3H, m). 7.19-7.23 (2H, m), 7.32 (1H, br. d), 7.41 (1H, br. d), 7.99 (1H, dd), 8.07 (2H, d), 9.26 (1H, s). LCMS (2) Rt: 2.32 min; m/z (ES+) 378.

reactant | tert-butyl 4-(4-(2-(o-toluidino)-4-carbamoyloxazol-5-yl)phenyl)piperazine-1-carboxylate | 0.025 mmol, 0.012 g | C=1(C(=CC=CC1)NC=1OC(=C(N1)C(N)=O)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C26H31N5O4
reactant | HCl | 0.5M | Cl | ClH
reactant | dioxane | 0.125 mmol, 0.25 ml | O1CCOCC1 | C4H8O2
solvent | DCM | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | 2-(o-toluidino)-5-(4-(piperazin-1-yl)phenyl)oxazole-4-carboxamide | 0.023 mmol, 0.0087 g, 92% | C=1(C(=CC=CC1)NC=1OC(=C(N1)C(=O)N)C1=CC=C(C=C1)N1CCNCC1)C | C21H23N5O2
